US07276518B2
N′-[2-(5-Methoxy-1H-indol-3-yl)-ethyl]-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine dihydrochloride, nonpolar diastereomer
6-Methoxytryptamine (495 mg) was dissolved until clear in dry 1,2-dichloroethane and THF (5 ml/15 ml) under argon. After addition of 4-dimethylamino-4-phenylcyclohexanone (565 mg) and glacial acetic acid (148 μl), stirring was carried out for two hours at RT, before sodium triacetoxyborohydride (858 mg) was added. The reaction mixture was stirred for two days at RT. For working up, water (15 ml) and 5.5M HCl (1.5 ml) were added to the reaction mixture. The phases were separated, the aqueous phase (pH 3) was washed with diethyl ether (3×10 ml) and then brought to pH 11 with 1M NaOH and extracted with ethyl acetate (5×15 ml). The combined extracts were dried with Na2SO4 and concentrated. The residue that remained (1.0 g; m.p. 129-153° C.) was purified by flash chromatography (eluant: MeOH/NEt3 99.25:0.75). The nonpolar diastereomer (550 mg, m.p. 164-169° C.) was separated off cleanly, dissolved in 2-butanone/acetone (15 ml/16 ml) while warm, and converted with chlorotrimethylsilane (533 μl) into the corresponding dihydrochloride (white solid; 633 mg; m.p. 165-175° C.).

reactant | 6-Methoxytryptamine | 495 mg | COC=1C=C2NC=C(CCN)C2=CC1 | C11H14N2O
reactant | 4-dimethylamino-4-phenylcyclohexanone | 565 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | sodium triacetoxyborohydride | 858 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | 5.5M, 1.5 ml | Cl | ClH
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 15 ml | O | H2O
solvent | acetic acid | 148 μl | C(C)(=O)O | C2H4O2
product | N′-[2-(5-Methoxy-1H-indol-3-yl)-ethyl]-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine dihydrochloride | Cl.Cl.COC=1C=C2C(=CNC2=CC1)CCNC1CCC(CC1)(N(C)C)C1=CC=CC=C1 | InChI=1S/C25H33N3O.2ClH/c1-28(2)25(20-7-5-4-6-8-20)14-11-21(12-15-25)26-16-13-19-18-27-24-10-9-22(29-3)17-23(19)24;;/h4-10,17-18,21,26-27H,11-16H2,1-3H3;2*1H
